US07816353B2
Synthesis of 2-{[2-amino-5-cyano-6-(methylthio)pyrimidin-4-yl]thio}-N-[3-(trifluoromethyl)phenyl]acetamide 5
To a 50 mL round-bottomed flask were added 2-amino-4-mercapto-6-(methylthio)-pyrimidine-5-carbonitrile (153 mg, 0.77 mmol, 1.0 eq.), 2-chloro-N-(3-trifluoromethyl-phenyl)acetamide (184 mg, 0.77 mmol), potassium carbonate (106 mg, 0.77 mmol) and acetone (10 mL). The reaction mixture was refluxed for 10 min. After removal of potassium carbonate by filtration, the reaction mixture was concentrated. Recrystallization from ether-ethyl acetate gave 240 mg (80%) of the title compound as a white solid.

reactant | 2-amino-4-mercapto-6-(methylthio)-pyrimidine-5-carbonitrile | 0.77 mmol, 153 mg, 1.0 eq. | NC1=NC(=C(C(=N1)S)C#N)SC | C6H6N4S2
reactant | 2-chloro-N-(3-trifluoromethyl-phenyl)acetamide | 0.77 mmol, 184 mg | ClCC(=O)NC1=CC(=CC=C1)C(F)(F)F | C9H7ClF3NO
reactant | potassium carbonate | 0.77 mmol, 106 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 10 mL | CC(=O)C | C3H6O
product | 2-{[2-amino-5-cyano-6-(methylthio)pyrimidin-4-yl]thio}-N-[3-(trifluoromethyl)phenyl]acetamide | 240 mg, 80% | NC1=NC(=C(C(=N1)SCC(=O)NC1=CC(=CC=C1)C(F)(F)F)C#N)SC | C15H12F3N5OS2
